US05314998
By a procedure similar to that for 2,4-dihydro-5-methyl-2-octyl-3H-pyrazol-3-one, starting from 3-methyl-3-pyrazoline-5-one (19.63 g, 0.20 mol) and 1-bromo-3-phenylpropane (39.80 g, 0.20 mol), 2,4-dihydro-5-methyl-2-(3-phenylpropyl)-3H-pyrazol-3-one (29.40 g, 69%) was obtained as colorless needles, m.p. 130°-105° C.

reactant | 2,4-dihydro-5-methyl-2-octyl-3H-pyrazol-3-one | CC=1CC(N(N1)CCCCCCCC)=O | C12H22N2O
reactant | 3-methyl-3-pyrazoline-5-one | 0.20 mol, 19.63 g | CC=1NNC(C1)=O | C4H6N2O
reactant | 1-bromo-3-phenylpropane | 0.20 mol, 39.80 g | BrCCCC1=CC=CC=C1 | C9H11Br
product | 2,4-dihydro-5-methyl-2-(3-phenylpropyl)-3H-pyrazol-3-one | 29.40 g, 69% | CC=1CC(N(N1)CCCC1=CC=CC=C1)=O | C13H16N2O
